US07435837B2
To a solution of (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (2.05 g, 5.21 mmol) and phenylboronic acid (0.952 g, 7.81 mmol) in dioxane (50 mL) heated to 100° C. was added dichlorobis(tri-o-tolylphosphine)-palladium(II) (0.205 g, 0.261 mmol) and potassium carbonate (1.80 g, 13.04 mmol) and the reaction mixture was allowed to stir at 100° C. for 12 h. The reaction mixture was cooled to room temperature, diluted with diethyl ether (250 mL), and filtered (celite). The organic layer was washed with water (2×100 mL) and saturated aqueous sodium chloride (100 mL), was dried (magnesium sulfate), and the solvent was removed in vacuo to provide a crude oil. Purification by flash column chromatography (silica, ethyl acetate:hexanes 1:9) provided 1.45 g (73%) of (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate as a clear oil. Rf=0.34 (silica, ethyl acetate:hexanes 1:4); Anal. calcd. for C22H20O4S: C, 69.45; H, 5.30. Found: C, 69.17; H, 5.30.

reactant | (±)-(4-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 5.21 mmol, 2.05 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)Br | C16H15BrO4S
reactant | phenylboronic acid | 7.81 mmol, 0.952 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium carbonate | 13.04 mmol, 1.80 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
solvent | diethyl ether | 250 mL | C(C)OCC | C4H10O
catalyst | dichlorobis(tri-o-tolylphosphine)-palladium(II) | 0.261 mmol, 0.205 g | CC1=C([P](C2=C(C)C=CC=C2)([Pd]([P](C3=C(C)C=CC=C3)(C4=C(C)C=CC=C4)C(C=CC=C5)=C5C)(Cl)Cl)C6=C(C)C=CC=C6)C=CC=C1
product | (±)-(4-phenyl-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.45 g, 73% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C(=CC=C2)C2=CC=CC=C2 | C22H20O4S
